US05753664
1-[4-(4-Methoxybenzoyl)benzyl]-2,3,5-trimethyl-1H-pyrrolo [2,3-d]pyridazin-4(5H)-one
A solution of 2,3,5-trimethyl-1H-pyrrolo[2,3-d]-pyridazin-4(5H)-one (1.06 g) in DMF (90 ml) was dripped into a suspension of 60% sodium hydride-oil (288 mg) in DMF (24 ml) on an ice-water bath. The mixture was stirred at room temperature for 1 hour, after which a solution of 4-(4-methoxybenzoyl)benzyl bromide (2.40 g) in DMF (30 ml) was added and the mixture was further stirred at room temperature for 2 hours. The reaction was stopped by adding water and the reaction mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (developer; n-hexane: ethyl acetate=1:1-1:2) to provide the title compound as light-yellow powder (1.70 g, yield 71%).

reactant | 2,3,5-trimethyl-1H-pyrrolo[2,3-d]-pyridazin-4(5H)-one | 1.06 g | CC1=C(C2=C(C=NN(C2=O)C)N1)C | C9H11N3O
reactant | sodium hydride | 288 mg | [H-].[Na+]
reactant | 4-(4-methoxybenzoyl)benzyl bromide | 2.40 g | COC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C15H13BrO2
reactant | water | O | H2O
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
solvent | DMF | 24 ml | CN(C)C=O | C3H7NO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 1-[4-(4-Methoxybenzoyl)benzyl]-2,3,5-trimethyl-1H-pyrrolo [2,3-d]pyridazin-4(5H)-one | 1.70 g, yield 71% | COC1=CC=C(C(=O)C2=CC=C(CN3C(=C(C4=C3C=NN(C4=O)C)C)C)C=C2)C=C1 | C24H23N3O3
